US09353096B2
(4-Chlorophenyl)-carbamic acid (S)-2,2,2-trifluoro-1-(4-methyl-3-phenylpiperazin-1-ylmethyl)-ethyl ester hydrochloride
(S)-1,1,1-Trifluoro-3-(4-methyl-3-phenyl-piperazin-1-yl)-propan-2-ol (180 mg, 0.62 mmol) and 1-chloro-4-isocyanatobenzene (115 mg, 0.75 mmol) were combined in acetonitrile (5 mL). The reaction mixture was stirred overnight and evaporated. The residue was purified by flash chromatography (20/1 dichloromethane/EtOAc then 20/1 dichloromethane/MeOH) to provide the desired product. To the free-base product was added 1M HCl/ether solution to provide HCl salt form, (4-chlorophenyl)-carbamic acid (S)-2,2,2-trifluoro-1-(4-methyl-3-phenyl-piperazin-1-ylmethyl)-ethyl ester hydrochloride (150 mg) as a white solid. (M+H)+=442 m/e.

reactant | (S)-1,1,1-Trifluoro-3-(4-methyl-3-phenyl-piperazin-1-yl)-propan-2-ol | 0.62 mmol, 180 mg | FC([C@H](CN1CC(N(CC1)C)C1=CC=CC=C1)O)(F)F | C14H19F3N2O
reactant | 1-chloro-4-isocyanatobenzene | 0.75 mmol, 115 mg | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | (4-Chlorophenyl)-carbamic acid (S)-2,2,2-trifluoro-1-(4-methyl-3-phenylpiperazin-1-ylmethyl)-ethyl ester hydrochloride | Cl.FC([C@H](CN1CC(N(CC1)C)C1=CC=CC=C1)OC(NC1=CC=C(C=C1)Cl)=O)(F)F | InChI=1S/C21H23ClF3N3O2.ClH/c1-27-11-12-28(13-18(27)15-5-3-2-4-6-15)14-19(21(23,24)25)30-20(29)26-17-9-7-16(22)8-10-17;/h2-10,18-19H,11-14H2,1H3,(H,26,29);1H/t18?,19-;/m0./s1
